US20010014737A1
i) Methyl (S)-8-methoxy-3-oxo-2-(4-trifluoromethylbenzyl)-2,3,4,5-tetrahydro-1 H-2-benzazepine-4-acetate
To a stirred solution of (R)-4-benzyl-2-oxazolidinonyl 3-[2-[N-(tert-butoxycarbonyl)-N-(4-trifluoromethylbenzyl) aminomethyl]-4-methoxyphenyl]-2(S)-methoxycarbonylmethyl-propionamide (38.0 g, 54 mmol) in THF (300 mL) and water (100 mL) was added dropwise at 0° C. over 30 min a solution of 30% H2O2 (18.9 mL) and LiOH H2O (2.3 g, 55 mmol) in water (62 mL). The cloudy solution was stirred for an additional 1 h at 0° C. The resulting homogeneous solution was treated slowly with a solution of sodium sulfite (34.3 g, 272 mmol) in water (175 mL) at 0° C., then was acidified with an ice-cold solution of concentrated HCl (35 mL) in water (150 mL). The reaction was extracted with ethyl acetate (2×200 mL), and the combined organic layers were washed with brine (400 mL), dried (MgSO4) and concentrated to dryness. The resulting residue was treated with 4.0 M HCl in dioxane (400 mL) with stirring at RT (slow gas evolution was observed). After 1 h, the reaction was concentrated and reconcentrated from 1:1 CHCl3/toluene (2×), then the residue (37.65 g) was taken up in dry DMF (400 mL). To this solution with stirring under argon at 0° C. in a Dewar flask were added triethylamine (15.3 mL, 109 mmol) and NaHCO3 (22.9 g, 273 mmol), followed by diphenylphosphoryl azide (13 mL. 60 mmol). After stirring for 24 h at 0° C. the reaction was concentrated to dryness. The residue was taken up in ethyl acetate (400 mL), and washed sequentially with water (300 mL) and brine (300 mL). Drying (MgSO4), concentration, and flash chromatography on silica gel (35% ethyl acetate/hexanes) gave the title compound (16.87 g, 74%) as a clear thick oil: TLC (40% EtOAc/hexane) Rf 0.50; MS (ES) m/e 422.3 (M+ H)+; 1 H NMR (400 MHz, CDCl3) δ7.52 (d, J=8.1, 2H), 7.29 (d, J=8.1 Hz, 2 H), 7.02 (d, J=8.5 Hz, 1 H), 7.75 (dd, 1 H), 6.36 (d, J=2.7 Hz, 1 H), 5.18 (d, J=16.5 Hz, 1 H), 4.96 (d, J =15.4 Hz, 1 H), 4.48 (d, J=15.4 Hz, 1 H), 3.87 (m, 1 H), 3.74 (d, J=16.5 Hz, 1 H), 3.73 (s, 3 H), 3.71 (s, 3 H), 3.08 (dd, 1 H), 3.02 (dd, 1 H), 2.95 (dd, 1 H), 2.48 (dd, 1 H).

reactant | (R)-4-benzyl-2-oxazolidinonyl 3-[2-[N-(tert-butoxycarbonyl)-N-(4-trifluoromethylbenzyl) aminomethyl]-4-methoxyphenyl]-2(S)-methoxycarbonylmethyl-propionamide | 54 mmol, 38.0 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)[C@@](C(=O)N)(CC1=C(C=C(C=C1)OC)CN(CC1=CC=C(C=C1)C(F)(F)F)C(=O)OC(C)(C)C)CC(=O)OC | C37H42F3N3O8
reactant | H2O2 | 18.9 mL | OO | H2O2
reactant | LiOH H2O | 55 mmol, 2.3 g | O[Li].O
reactant | sodium sulfite | 272 mmol, 34.3 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 35 mL | Cl | ClH
reactant | triethylamine | 109 mmol, 15.3 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 273 mmol, 22.9 g | C(=O)(O)[O-].[Na+]
reactant | diphenylphosphoryl azide | 60 mmol, 13 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | water | 62 mL | O | H2O
solvent | water | 175 mL | O | H2O
solvent | water | 150 mL | O | H2O
product | Methyl (S)-8-methoxy-3-oxo-2-(4-trifluoromethylbenzyl)-2,3,4,5-tetrahydro-1 H-2-benzazepine-4-acetate | 16.87 g, 74% | COC1=CC2=C(C[C@H](C(N(C2)CC2=CC=C(C=C2)C(F)(F)F)=O)CC(=O)OC)C=C1 | C22H22F3NO4
